US07211334B2
Synthesis of 4-tert-Butyl-3-methyl-1-phenylpyrazol-5-one
3-Methyl-1-phenylpyrazol-5-one (5 g; 0.029 mole) was placed in a flask equipped with a stirrer and reflux condenser. Dry and distilled dioxane (40 ml) was added by warming and to the clear solution calcium hydroxide (6.4 g; 0.086 mole) was added followed by drop wise addition of tert-butylacetyl chloride (4.8 ml; 0.034 mole). The mixture was heated to reflux for 4 hours and then poured into 2M HCl (200 ml) to decompose the calcium complex. A light brown precipitate formed immediately, which was filtered off under suction after refrigerating overnight. The product was washed with water and dried under vacuum at 50° C. The product was recrystallised from methanol to give an off-white crystalline solid, m.p 85–86° C.; 6.8 g (82%).

reactant | 3-Methyl-1-phenylpyrazol-5-one | 0.029 mole, 5 g | CC=1NN(C(C1)=O)C1=CC=CC=C1 | C10H10N2O
reactant | calcium hydroxide | 0.086 mole, 6.4 g | [OH-].[Ca+2].[OH-]
reactant | tert-butylacetyl chloride | 0.034 mole, 4.8 ml | C(C)(C)(C)CC(=O)Cl | C6H11ClO
solvent | HCl | 2M, 200 ml | Cl | ClH
product | 4-tert-Butyl-3-methyl-1-phenylpyrazol-5-one | C(C)(C)(C)C1=C(NN(C1=O)C1=CC=CC=C1)C | C14H18N2O
